datasets/10k_Mayr_OG.csv
SMILES Labelled
"FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44].[N-]=[N+]=NC[C@@H]1CCC[NH:10]1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.[N-]=[N+]=NC[C@@H]1CCC[NH+:10]1[S:20]C(F)(F)F 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1.C[Si:63]1(C)C[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[H:10][BH3-:11]>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[BH3:11] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].[CH2:10]=[N+:11]([O-:12])[O-:62]>>C[C:21]([CH:20]([CH2:10][N+:11](=[O:12])[O-:62])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12].C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1>>C[C:62]1=[CH:61][N:10]([CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:11]=[NH+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.C[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:11]([C:10]1([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)CCC[O:72][C:61]1=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH2:62][CH:11]=[CH2:10]>>CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH2:62][CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C)[O:12]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH:10](C)[CH:20]([CH:21]=[CH:22][N:23]1CCOCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:62](=[N:61][CH:10]=[C:11]=[N-:12])[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)C=C1.C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1>>C1=CC=C([C:62](=[N:61][CH:10]([C:11]#[N:12])[F:20])[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)C=C1.C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:62]/[C:11](=[CH:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:11](=[O:12])[O:62]CC)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10](C2=CC=CC=C2)(C(C)(C)C)C(C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[O-:12])C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
